### PR TITLE
[Merged by Bors] - feat: lemmas for the analytic part of the proof of the Gelfond–Schneider theorem (Part 1/5)

### PR DESCRIPTION
**Pull request by mkaratarakis**
---

Required for https://github.com/leanprover-community/mathlib4/pull/33050
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 1]
```diff
@@ -361,6 +361,17 @@ lemma HasFPowerSeriesOnBall.hasFPowerSeriesWithinOnBall (hf : HasFPowerSeriesOnB
   rw [← hasFPowerSeriesWithinOnBall_univ] at hf
   exact hf.mono (subset_univ _)
 
+lemma hasFPowerSeriesWithinAt_nhds_iff (f : E → F) (p : FormalMultilinearSeries 𝕜 E F) {U : Set E}
+    (hU : U ∈ nhds x) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Basic.lean]: Can you use the scoped notation for `nhds`?

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 2]
```diff
@@ -361,6 +361,17 @@ lemma HasFPowerSeriesOnBall.hasFPowerSeriesWithinOnBall (hf : HasFPowerSeriesOnB
...
+    HasFPowerSeriesWithinAt f p U x ↔ HasFPowerSeriesAt f p x := by
+  refine ⟨fun ⟨renn, r_le, r_pos, hs⟩ ↦ ?_,
+    fun ⟨r, hr⟩ ↦ ⟨r, HasFPowerSeriesOnBall.hasFPowerSeriesWithinOnBall hr⟩⟩
+  · have hzmem := mem_of_mem_nhds hU
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Basic.lean]: If there is a single goal, no need to bullet things.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 3]
```diff
@@ -361,6 +361,17 @@ lemma HasFPowerSeriesOnBall.hasFPowerSeriesWithinOnBall (hf : HasFPowerSeriesOnB
...
+    rw [Metric.mem_nhds_iff] at hU
+    obtain ⟨r', hr', hball⟩ := hU
+    use min renn (Option.some ⟨r', by linarith⟩)
+    refine ⟨by aesop, by aesop, fun hy s ↦ hs (U := s) (y := _) (by aesop) (by aesop)⟩
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Basic.lean]: Can you close the proof with `exact` instead of refine?

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 4]
```diff
@@ -522,6 +536,12 @@ lemma AnalyticOn.mono {f : E → F} {s t : Set E} (h : AnalyticOn 𝕜 f t)
     AnalyticWithinAt 𝕜 f (insert y s) x ↔ AnalyticWithinAt 𝕜 f s x := by
   simp [AnalyticWithinAt]
 
+lemma AnalyticOn.analyticAt {f : E → F} {z : E} {s : Set E} (hU : s ∈ nhds z) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Basic.lean]: scoped notation

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 5]
```diff
@@ -522,6 +536,12 @@ lemma AnalyticOn.mono {f : E → F} {s t : Set E} (h : AnalyticOn 𝕜 f t)
...
+    AnalyticOn 𝕜 f s → AnalyticAt 𝕜 f z := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Basic.lean]: move the assumption left of the colon

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 6]
```diff
@@ -361,6 +361,16 @@ lemma HasFPowerSeriesOnBall.hasFPowerSeriesWithinOnBall (hf : HasFPowerSeriesOnB
...
 
+lemma hasFPowerSeriesWithinAt_nhds_iff (f : E → F) (p : FormalMultilinearSeries 𝕜 E F) {U : Set E}
+    (hU : U ∈ 𝓝 x) :
+    HasFPowerSeriesWithinAt f p U x ↔ HasFPowerSeriesAt f p x := by
+  refine ⟨fun ⟨renn, r_le, r_pos, hs⟩ ↦ ?_,
+    fun ⟨r, hr⟩ ↦ ⟨r, HasFPowerSeriesOnBall.hasFPowerSeriesWithinOnBall hr⟩⟩
+  rw [Metric.mem_nhds_iff] at hU
+  obtain ⟨r', hr', hball⟩ := hU
+  exact ⟨min renn (Option.some ⟨r', by linarith⟩),
+    by aesop, by aesop, fun hy s ↦ hs (U := s) (y := _) (by aesop) (by aesop)⟩
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Basic.lean]:
```suggestion
  rw [← hasFPowerSeriesWithinAt_univ]
  exact ⟨fun h ↦ h.mono_of_mem_nhdsWithin (mem_nhdsWithin_of_mem_nhds hU), 
    fun h ↦ h.mono (subset_univ _)⟩ 
```
Instead of redoing things by hand, you can use existing API to streamline the proof.
(This will need to be moved a few lines below to be able to use the lemmas)

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 7]
```diff
@@ -388,6 +388,13 @@ theorem HasFPowerSeriesWithinAt.mono_of_mem_nhdsWithin
     add_sub_cancel_left, hy, and_true] at h'y ⊢
   exact h'y.2
 
+lemma hasFPowerSeriesWithinAt_nhds_iff (f : E → F) (p : FormalMultilinearSeries 𝕜 E F) {U : Set E}
+    (hU : U ∈ 𝓝 x) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Basic.lean]:
```suggestion
lemma hasFPowerSeriesWithinAt_iff_of_nhds (f : E → F) (p : FormalMultilinearSeries 𝕜 E F) {U : Set E}
    (hU : U ∈ 𝓝 x) :
```

**Review by j-loreaux — COMMENTED** [review]
bors d+
